US07872009B2
Step 1: 6-(2-Fluorophenyl)-5-oxo-1,2,3,5-tetrahydroindolizine-8-carboxylic acid
A mixture of 5-oxo-8-propionyl-1,2,3,5-tetrahydroindolizin-6-yl trifluoromethanesulfonate (0.10 g, 0.292 mmol), 2-fluorophenylboronic acid (0.050 g, 0.38 mmol), and 2M Na2CO3 (0.75 mL, 1.46 mmol) in toluene/EtOH (4 mL, 4:1) was heated at 160° C. for 30 min. in a Microwave Synthesizer. The mixture was cooled, and the layers were separated. The aqueous layer was acidified and the precipitate was filtered and air dried to afford the title compound (0.051 g, 64%). MS (m/z, M+1): 274.1.

reactant | 5-oxo-8-propionyl-1,2,3,5-tetrahydroindolizin-6-yl trifluoromethanesulfonate | 0.292 mmol, 0.10 g | FC(S(=O)(=O)OC=1C(N2CCCC2=C(C1)C(CC)=O)=O)(F)F | C12H12F3NO5S
reactant | 2-fluorophenylboronic acid | 0.38 mmol, 0.050 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 1.46 mmol, 2M, 0.75 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene EtOH | 4 mL | C1(=CC=CC=C1)C.CCO
product | 6-(2-Fluorophenyl)-5-oxo-1,2,3,5-tetrahydroindolizine-8-carboxylic acid | 0.051 g, 64% | FC1=C(C=CC=C1)C=1C(N2CCCC2=C(C1)C(=O)O)=O | C15H12FNO3
